US06403561B1
a) Preparation of 1-(N-(tert-butoxycarbonyl)-2(S)-aminobutyryl)-L-proline n-butylamide
2.42 g of 1-(N-(tert-butoxycarbonyl)-2(S)-aminobutyryl)-L-proline (8.05 mmol) prepared as in Example 2 c) are dissolved in dry tetrahydrofuran (15 ml). The solution is cooled in an ice/salt bath and 0.927 g of N-ethylmorpholine (8.05 mmol) and 1.10 g of isobutyl chloroformate (8.05 mmol) are then added. The solution is stirred for 45 minutes and 0.59 g (8.05 mmol) of n-butylamine is added. After stirring overnight, methylene chloride (200 ml) is added and the mixture is washed with 10% citric acid (2×100 ml) and then with 5% NaHCO3 (2×100 ml). The organic phase is dried (Na2SO4) and evaporated under vacuum. A syrup is obtained. The deprotection is carried out without characterization.

reactant | 1-(N-(tert-butoxycarbonyl)-2(S)-aminobutyryl)-L-proline | 8.05 mmol, 2.42 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@H](C(=O)O)CCC1)CC | C14H24N2O5
reactant | N-ethylmorpholine | 8.05 mmol, 0.927 g | C(C)N1CCOCC1 | C6H13NO
reactant | isobutyl chloroformate | 8.05 mmol, 1.10 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | n-butylamine | 8.05 mmol, 0.59 g | C(CCC)N | C4H11N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 1-(N-(tert-butoxycarbonyl)-2(S)-aminobutyryl)-L-proline n-butylamide | C(CCC)NC([C@H]1N(CCC1)C([C@H](CC)NC(=O)OC(C)(C)C)=O)=O | C18H33N3O4
